US07449475B2
4-(Acetylamino)-3-hydroxyphenyl benzoate
To a solution of 2-methyl-1,3-benzoxazol-6-yl benzoate (5.05 g, 20 mmol) in THE (100 mL) a mixture trifluoroacetic acid/water (4 ml/10 mL) was added. The reaction mixture was stirred at room temperature for 16 h, then saurated aqueous NaHCO3 (150 mL) was added. The mixture was extracted with ethyl acetate (150 mL), dried over Na2SO4, filtered and concentrated in vacuo to give the subtitled compound.

reactant | 2-methyl-1,3-benzoxazol-6-yl benzoate | 20 mmol, 5.05 g | C(C1=CC=CC=C1)(=O)OC1=CC2=C(N=C(O2)C)C=C1 | C15H11NO3
reactant | trifluoroacetic acid water | 4 ml | FC(C(=O)O)(F)F.O
solvent | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
product | 4-(Acetylamino)-3-hydroxyphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)NC(C)=O)O | C15H13NO4
